US04111923
To a mixture of 3.1 g. of Nα -benzyloxycarbonyl-L-trytophyl-L-seryl-L-tyrosine methyl ester and 200 mg. of 20% palladium on carbon is added 75 ml. of methanol containing 1.7 ml. of 3N hydrogen chloride in tetrahydrofuran and the reaction is stirred under an atmosphere of hydrogen for two and a half hours. The mixture is filtered to remove the catalyst and the filtrate is evaporated under reduced pressure to give a residue of L-tryptophyl-L-seryl-L-tyrosine methyl ester hydrochloride which is suitable for use without further purification.

reactant | Nα -benzyloxycarbonyl-L-trytophyl-L-seryl-L-tyrosine methyl ester | COC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O | C32H34N4O8
reactant | methanol | 1.7 ml | CO | CH4O
reactant | hydrogen chloride | 3N | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | L-tryptophyl-L-seryl-L-tyrosine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@@H](NC([C@@H](N)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O | InChI=1S/C24H28N4O6.ClH/c1-34-24(33)20(10-14-6-8-16(30)9-7-14)27-23(32)21(13-29)28-22(31)18(25)11-15-12-26-19-5-3-2-4-17(15)19;/h2-9,12,18,20-21,26,29-30H,10-11,13,25H2,1H3,(H,27,32)(H,28,31);1H/t18-,20-,21-;/m0./s1
